US07205411B2
To a solution of Cul (10 mg, 50 μmol) in triethylamine (5 ml) were added (2-bromo-6-methyl-pyridin-3-yl)amine (200 mg, 1.07 mmol) and (PPh3)2PdCl2 (36 mg, 50 μmol). The reaction mixture was cooled to 0° C. and phenylacetylene (176 μl, 1.60 mmol) was added. The reaction mixture was allowed to warm to room temperature and then heated under reflux for 14 h. The solvent was evaporated and the crude residue was purified by flash chromatography (hexane/ethyl acetate 4:1) to yield 105 mg (0.50 mmol, 47%) of (6-methyl-2-phenylethynyl-pyridin-3-yl)amine as a yellow solid.

reactant | (2-bromo-6-methyl-pyridin-3-yl)amine | 1.07 mmol, 200 mg | BrC1=NC(=CC=C1N)C | C6H7BrN2
reactant | phenylacetylene | 1.60 mmol, 176 μl | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 50 μmol, 36 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (6-methyl-2-phenylethynyl-pyridin-3-yl)amine | 0.50 mmol, 105 mg, 47% | CC1=CC=C(C(=N1)C#CC1=CC=CC=C1)N | C14H12N2
